US09376418B2
Sodium borohydride (46 mg, 1.2 mmol) was added to a solution of 1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]ethanone (45 mg, 0.12 mmol) in tetrahydrofuran (300 μl) and methanol (300 μl) and then the reaction mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was quenched with saturated aqueous potassium sodium tartrate (2 mL) and diluted with dichloromethane (3 mL). The mixture was stirred for 16 hours, filtered through a CELITE pad, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10-40% acetone/hexanes, linear gradient) to afford 1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]ethanol. MS ESI calc'd. for C19H18F3N4O [M+H]+ 375. found 375. 1H NMR (500 MHz, DMSO-d6) δ 10.26 (s, 1H), 8.82 (s, 1H), 8.71 (s, 1H), 7.98 (d, J=7.5 Hz, 1H), 7.95 (s, 1H), 7.57 (d, J=7.5 Hz, 1H), 7.54 (s, 1H), 7.27 (s, 1H), 7.18 (s, 1H), 5.39 (s, 1H), 4.80-4.72 (m, 1H), 2.35 (s, 3H), 1.38 (d, J=5.5 Hz, 3H).

reactant | Sodium borohydride | 1.2 mmol, 46 mg | [BH4-].[Na+]
reactant | 1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]ethanone | 0.12 mmol, 45 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C(C)=O | C19H15F3N4O
solvent | tetrahydrofuran | 300 μl | O1CCCC1 | C4H8O
solvent | methanol | 300 μl | CO | CH4O
product | 1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]ethanol | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C(C)O | C19H17F3N4O
